US05591730
Chemicals were purchased commercially: methylene diphosphonic acid (MDP) (Fluka Chemika-Biochemika, Switzerland); citric acid, hydrochloric acid, imidodiphosphonate sodium, magnesium chloride, platinic chloride, sodium hydrosulfite, stannous chloride, and zinc chloride (Sigma Chemical Company, St. Louis, Mo.); sodium hydroxide (Aldrich Chemical Company, St. Louis, Mo.); calcium chloride and sodium oxalate (Fisher Scientific, Pittsburgh, Pa.); ferric chloride and sodium chloride (Mallinkrodt Incorporated, Paris, Ky.); and etidronate disodium (MGI Pharma, Minneapolis, Minn.). Pamidronate disodium was generously provided by Ciba Pharmaceutical Company, Summit, N.J. Reagents were used as received without further purification. All solutions were made in distilled and de-ionized water (dd H2O) at a pH of 6-7 and with an approximate ionic strength of 0.15 using sodium and chloride as supporting electrolytes.

reactant | methylene diphosphonic acid | C(P(O)(O)=O)P(O)(O)=O | CH6O6P2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | hydrochloric acid | Cl | ClH
reactant | imidodiphosphonate sodium | [Na+].P(=O)([O-])NP(=O)[O-].[Na+]
reactant | magnesium chloride | [Cl-].[Mg+2].[Cl-]
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | sodium oxalate | C(C(=O)[O-])(=O)[O-].[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | etidronate disodium | CC(O)(P(=O)(O)[O-])P(=O)(O)[O-].[Na+].[Na+]
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | Pamidronate disodium | C(CN)C(O)(P(=O)(O)[O-])P(=O)(O)[O-].[Na+].[Na+] | InChI=1S/C3H11NO7P2.2Na/c4-2-1-3(5,12(6,7)8)13(9,10)11;;/h5H,1-2,4H2,(H2,6,7,8)(H2,9,10,11);;/q;2*+1/p-2
